US04921785
Step 5: Synthesis of 5-t-Butyl-4-(2-hydroxyethylthiomethyl)-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one
15 g of 5-t-butyl-4-chloromethyl-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one was dissolved in 150 ml of tetrahydrofuran, 2.8 g of 2-hydroxyethanethiol and 4 g of triethylamine were added and the mixture was reacted at room temperature for a period of 5 hours. After reaction, the solvent was removed by distillation, ethyl acetate and water (150 ml:100 ml) were added and the mixture was partitioned. The organic layer was recovered, the solvent was removed by distillation and the residue obtained was used without further refinement in step 6.

reactant | 5-t-butyl-4-chloromethyl-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one | 15 g | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)S(=O)(=O)CCO)[N+](=O)[O-])=O)CCl | C16H19ClN2O7S
reactant | 2-hydroxyethanethiol | 2.8 g | OCCS | C2H6OS
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-t-Butyl-4-(2-hydroxyethylthiomethyl)-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)S(=O)(=O)CCO)[N+](=O)[O-])=O)CSCCO | C18H24N2O8S2
